US08278282B2
Intermediate (2R,3R,4R,5R)-2,4-dibenzoyloxy-5-benzoyloxymethyl-3-ethynyl-tetrahydro-furan-3-ol (2.048 g, 4.21 mmol, 1.0 equiv.) is dissolved in methanol (10 ml) and THF (10 ml). K2CO3 (176 mg, 1.26 mmol, 0.3 equiv.) is added, The reaction is stirred at ambient temperature for 2 h, filtered on silica gel, concentrated and purified by flash chromatography to give (2R,3R,4R,5R)-4-benzoyloxy-5-benzoyloxymethyl-3-ethynyl-tetrahydrofuran-2,3-diol as a foam. 1H-NMR (400 MHz, CDCl3): δ 8.06-7.96 (m, 4H), 7.54-7.26 (m, 6H), 5.88 (d, 0.26H, J=6.4 Hz), 5.54 (s, 0.72H), 5.53 (d, 0.72H, J=5.2 Hz), 5.41 (s, 0.28H), 5.28 (bs, 1H), 4.67-4.49 (m, 3H), 4.22 (bs, 1H), 2.67 (s, 0.26H), 2.59 (s, 0.71H); 13C-NMR (100 MHz, CDCl3): δ 166.74, 166.61, 165.74, 165.66, 133.79, 133.71, 133.52, 133.33, 133.24, 130.11, 130.05, 130.02, 129.89, 129.81, 129.44, 129.41, 128.86, 128.75, 128.57, 128.41, 128.36, 81.87, 80.07, 79.23, 77.89, 77.21, 76.61, 76.39, 75.77, 75.58, 72.83, 65.29, 64.26.

reactant | (2R,3R,4R,5R)-2,4-dibenzoyloxy-5-benzoyloxymethyl-3-ethynyl-tetrahydro-furan-3-ol | 4.21 mmol, 2.048 g, 1.0 equiv. | C(C1=CC=CC=C1)(=O)O[C@H]1O[C@@H]([C@H]([C@]1(O)C#C)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C28H22O8
reactant | K2CO3 | 1.26 mmol, 176 mg, 0.3 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2R,3R,4R,5R)-4-benzoyloxy-5-benzoyloxymethyl-3-ethynyl-tetrahydrofuran-2,3-diol | C(C1=CC=CC=C1)(=O)O[C@H]1[C@]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)O)(O)C#C | C21H18O7
